US05216167
2-Ethoxy-4-[N-(α-carboxy-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoic acid
Ethyl 2-ethoxy-4-[N-(α-ethoxycarbonyl-2-piperidinobenzyl)-aminocarbonylmethyl]-benzoate (0.45 g, 0.9 mmol) in ethanol (5 ml) is stirred together with 1N sodium hydroxide solution (2.7 ml) for 2 hours at 50° C. Then 1N hydrochloric acid (2.7 ml) is added and the mixture is concentrated by evaporation in vacuo. The evaporation residue is partitioned between water and chloroform. The combined chloroform extracts are shaken once with water, then the organic phase is dried, filtered and evaporated down in vacuo. The evaporation residue is crystallized with ether.

reactant | Ethyl 2-ethoxy-4-[N-(α-ethoxycarbonyl-2-piperidinobenzyl)-aminocarbonylmethyl]-benzoate | 0.9 mmol, 0.45 g | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)C(=O)OCC | C28H36N2O6
reactant | sodium hydroxide | 1N, 2.7 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 2.7 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-Ethoxy-4-[N-(α-carboxy-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoic acid | C(C)OC1=C(C(=O)O)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)C(=O)O | C24H28N2O6
